US05885990
Preparation of 1-formyl-6-cyano-2-naphthol:
65 milliliters of acetic acid was added to 20 g of 6-cyano-2-naphthol, 3.6 g of paraformaldehyde and 16.6 g of hexamethylenetetramine, followed by stirring at 80° C. for 4 hours. Furthermore, to the reaction mixture was added a solution comprising 53 ml of acetic acid, 10.5 ml of water and 17.8 g of concentrated sulfuric acid at 60° C., followed by stirring at 80° C. for 4 hours. After cooling, 95 ml of water was added to the resulting solution, followed by stirring, and the precipitate was collected by filtration and washed with 40 ml of warm water. To the collected precipitate was added 350 ml of chloroform, followed by refluxing for 1 hour. Thereafter, the precipitate was filtered and the filtrate was concentrated under reduced pressure to obtain a crude product. This product was subjected to silica gel column chromatography using chloroform as an eluent, and the desired fractions were collected, and the solvent was distilled off under reduced pressure. To the residue was added 100 ml of n-hexane and the mixture was stirred for a while, and the precipitate was collected by filtration to obtain 11.2 g of the desired product.

reactant | 6-cyano-2-naphthol | 20 g | C(#N)C=1C=C2C=CC(=CC2=CC1)O | C11H7NO
reactant | paraformaldehyde | 3.6 g | C=O | CH2O
reactant | hexamethylenetetramine | 16.6 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | sulfuric acid | 17.8 g | S(O)(O)(=O)=O | H2O4S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | 95 ml | O | H2O
solvent | water | 10.5 ml | O | H2O
solvent | acetic acid | 53 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 65 milliliters | C(C)(=O)O | C2H4O2
product | 1-formyl-6-cyano-2-naphthol | 11.2 g | C(=O)C1=C(C=CC2=CC(=CC=C12)C#N)O | C12H7NO2
